### PR TITLE
[Merged by Bors] - feat: miscellaneous Lie algebra lemmas

### PR DESCRIPTION
**Pull request by ocfnash**
These came up in the proof that the Geck Construction yields _semisimple_ Lie algebras. I am splitting them into their own PR to simplify review.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Basic.lean [hunk 1]
```diff
@@ -296,18 +296,22 @@ def LieRing.toNonUnitalNonAssocRing : NonUnitalNonAssocRing L :=
...
-
-theorem lie_sum (s : Finset ι) (f : ι → L) (a : L) : ⁅a, ∑ i ∈ s, f i⁆ = ∑ i ∈ s, ⁅a, f i⁆ :=
-  let _i := LieRing.toNonUnitalNonAssocRing L
-  s.mul_sum f a
-
-theorem sum_lie_sum {κ : Type*} (s : Finset ι) (t : Finset κ) (f : ι → L) (g : κ → L) :
-    ⁅(∑ i ∈ s, f i), ∑ j ∈ t, g j⁆ = ∑ i ∈ s, ∑ j ∈ t, ⁅f i, g j⁆ :=
-  let _i := LieRing.toNonUnitalNonAssocRing L
-  s.sum_mul_sum t f g
+theorem sum_lie (s : Finset ι) (f : ι → L) (m : M) : ⁅∑ i ∈ s, f i, m⁆ = ∑ i ∈ s, ⁅f i, m⁆ := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean]: Is there an `AddMonoidHom` akin to `AddMonoidHom.mul` that you can use to prove this via `map_sum`? If not I think we should have one.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 2]
```diff
@@ -296,18 +296,22 @@ def LieRing.toNonUnitalNonAssocRing : NonUnitalNonAssocRing L :=
...
+
+theorem lie_sum (s : Finset ι) (f : ι → M) (a : L) : ⁅a, ∑ i ∈ s, f i⁆ = ∑ i ∈ s, ⁅a, f i⁆ := by
+  classical
+  induction s using Finset.induction_on with
+  | empty => simp
+  | insert b s h₁ h₂ => simpa [Finset.sum_insert h₁]
+
+theorem sum_lie_sum {κ : Type*} (s : Finset ι) (t : Finset κ) (f : ι → L) (g : κ → M) :
+    ⁅(∑ i ∈ s, f i), ∑ j ∈ t, g j⁆ = ∑ i ∈ s, ∑ j ∈ t, ⁅f i, g j⁆ := by
+  simp_rw [lie_sum, sum_lie]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean]: Does rewriting in the other order remove the need to commute the sums?

File: Mathlib/Algebra/Lie/Semisimple/Defs.lean [hunk 3]
```diff
@@ -29,6 +29,15 @@ variable [CommRing R] [LieRing L] [AddCommGroup M] [Module R M] [LieRingModule L
 abbrev LieModule.IsIrreducible : Prop :=
   IsSimpleOrder (LieSubmodule R L M)
 
+variable {R L M} in
+lemma LieModule.IsIrreducible.mk [Nontrivial M] (h : ∀ N : LieSubmodule R L M, N ≠ ⊥ → N = ⊤) :
+    IsIrreducible R L M where
+  exists_pair_ne := ⟨⊥, ⊤, by simp⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Semisimple/Defs.lean]: I think you can delete this line, extracting it to a Nontrivial instance if we don't already have one.

File: Mathlib/Algebra/Lie/Subalgebra.lean [hunk 4]
```diff
@@ -152,6 +151,11 @@ theorem mem_mk_iff (S : Set L) (h₁ h₂ h₃ h₄) {x : L} :
 theorem mem_toSubmodule {x : L} : x ∈ (L' : Submodule R L) ↔ x ∈ L' :=
   Iff.rfl
 
+@[simp]
+theorem mem_mk_iff' (p : Submodule R L) (h) {x : L} :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Subalgebra.lean:155]: Do we have these for other subobjects?

File: Mathlib/Algebra/Lie/Basic.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean]: OK sure; done.

File: Mathlib/Algebra/Lie/Basic.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean]: Good point; done.

File: Mathlib/Algebra/Lie/Semisimple/Defs.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Semisimple/Defs.lean]: Good point; done.

File: Mathlib/Algebra/Lie/Subalgebra.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Subalgebra.lean:155]: Yes, this brings `LieSubalgebra` in line with `LieSubmodule` which has [both](https://github.com/leanprover-community/mathlib4/blob/1f48e1a8edc6718ef449bf0e4f6ea193bc8b19ee/Mathlib/Algebra/Lie/Submodule.lean#L87-L94) `mem_mk_iff` and `mem_mk_iff'` (with corresponding meanings and `simp` attributes).

The API for both `LieSubalgebra` and `LieSubmodule` would benefit from a thorough cleanup (especially wrt names). I'll do this some day (unless someone beats me to it) but in the meantime I think having them more consistent with each other is a reasonable policy.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 5]
```diff
@@ -296,18 +295,17 @@ def LieRing.toNonUnitalNonAssocRing : NonUnitalNonAssocRing L :=
 
 variable {ι κ : Type*}
 
-theorem sum_lie (s : Finset ι) (f : ι → L) (a : L) : ⁅∑ i ∈ s, f i, a⁆ = ∑ i ∈ s, ⁅f i, a⁆ :=
-  let _i := LieRing.toNonUnitalNonAssocRing L
-  s.sum_mul f a
+theorem sum_lie (s : Finset ι) (f : ι → L) (m : M) : ⁅∑ i ∈ s, f i, m⁆ = ∑ i ∈ s, ⁅f i, m⁆ := by
+  let g : L →+ M := ⟨⟨fun x ↦ ⁅x, m⁆, zero_lie m⟩, fun x y ↦ add_lie x y m⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean]: My claim is that this is useful enough to be a global definition with type `L →+ M →+ M`!

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Basic.lean]: Which i guess is the module-less version of `LieModule.toEnd`

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean]: That's right: the fact that these are mathematically just `LieModule.toEnd` (specialised with `R = ℤ` and with one argument filled in) left me on the fence about making this definition in its own right.

But given your preference, I'll just do it.

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean]: OK done.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 6]
```diff
@@ -296,18 +304,16 @@ def LieRing.toNonUnitalNonAssocRing : NonUnitalNonAssocRing L :=
 
 variable {ι κ : Type*}
 
-theorem sum_lie (s : Finset ι) (f : ι → L) (a : L) : ⁅∑ i ∈ s, f i, a⁆ = ∑ i ∈ s, ⁅f i, a⁆ :=
-  let _i := LieRing.toNonUnitalNonAssocRing L
-  s.sum_mul f a
+theorem sum_lie (s : Finset ι) (f : ι → L) (m : M) : ⁅∑ i ∈ s, f i, m⁆ = ∑ i ∈ s, ⁅f i, m⁆ :=
+  let g : L →+ M := ⟨⟨fun x ↦ ⁅x, m⁆, zero_lie m⟩, fun x y ↦ add_lie x y m⟩
+  map_sum g f s
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean]:
```suggestion
  map_sum ((LieModule.toEndAddHom L M).flip m) f s
```
probably

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean]: Oh my previous commit message was a lie: we have `MonoidHom.flip`.

File: Mathlib/Algebra/Lie/Basic.lean [hunk 7]
```diff
@@ -227,6 +226,15 @@ theorem lie_jacobi : ⁅x, ⁅y, z⁆⁆ + ⁅y, ⁅z, x⁆⁆ + ⁅z, ⁅x, y
   rw [← neg_neg ⁅x, y⁆, lie_neg z, lie_skew y x, ← lie_skew, lie_lie]
   abel
 
+variable (L M) in
+/-- The Lie bracket as a biadditive map.
+
+Usually one will have coefficients and `LieModule.toEnd` will be more useful. -/
+@[simps] def LieRingModule.toEnd : L →+ M →+ M where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Basic.lean:233]: I guess we don't have "additive maps which preserve the bracket", so there's not more-bundled version of this available?

File: Mathlib/Algebra/Lie/Semisimple/Defs.lean [hunk 8]
```diff
@@ -29,6 +29,14 @@ variable [CommRing R] [LieRing L] [AddCommGroup M] [Module R M] [LieRingModule L
 abbrev LieModule.IsIrreducible : Prop :=
   IsSimpleOrder (LieSubmodule R L M)
 
+variable {R L M} in
+lemma LieModule.IsIrreducible.mk [Nontrivial M] (h : ∀ N : LieSubmodule R L M, N ≠ ⊥ → N = ⊤) :
+    IsIrreducible R L M where
+  eq_bot_or_eq_top N := by
+    rcases eq_or_ne N ⊥ with rfl | hN
+    · tauto
+    · exact Or.inr <| h N hN
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Semisimple/Defs.lean]:
```suggestion
  eq_bot_or_eq_top N := or_iff_not_imp_left.mpr <| h N
```

File: Mathlib/Algebra/Lie/Semisimple/Defs.lean [hunk 9]
```diff
@@ -29,6 +29,14 @@ variable [CommRing R] [LieRing L] [AddCommGroup M] [Module R M] [LieRingModule L
 abbrev LieModule.IsIrreducible : Prop :=
   IsSimpleOrder (LieSubmodule R L M)
 
+variable {R L M} in
+lemma LieModule.IsIrreducible.mk [Nontrivial M] (h : ∀ N : LieSubmodule R L M, N ≠ ⊥ → N = ⊤) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Semisimple/Defs.lean:33]: Should this be a constructor for `IsSimpleOrder` instead?

File: Mathlib/Algebra/Lie/Basic.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Basic.lean:233]: IIUC, mathematically you're talking about [LieHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Basic.html#LieHom) with `R = ℤ`. So in some sense [LieModule.toEnd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/OfAssociative.html#LieModule.toEnd) with `R = ℤ` is what you want, and already exists.

The intention is that people studying Lie rings (rarely studied) will have to depend on [LieRing.instLieAlgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Basic.html#LieRing.instLieAlgebra).

However there is a bigger reason not to make this a bracket-preserving map which is that one day I'd like to fix the mistake of making [Ring.instBracket](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Commute.html#Ring.instBracket) an instance.

File: Mathlib/Algebra/Lie/Semisimple/Defs.lean (hunk 9 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Semisimple/Defs.lean:33]: Yeah it should. Done in https://github.com/leanprover-community/mathlib4/pull/27600/commits/4b44b85af9e0c69e5c88143793cd71175386ac04

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Semisimple/Defs.lean:33]: (or maybe just removed, since this is the existing constructor modulo `or_iff_not_imp_left`)

bors d+

Thanks!

File: Mathlib/Order/Atoms.lean [hunk 10]
```diff
@@ -708,6 +708,11 @@ class IsSimpleOrder (α : Type*) [LE α] [BoundedOrder α] : Prop extends Nontri
 
 export IsSimpleOrder (eq_bot_or_eq_top)
 
+lemma IsSimpleOrder.mk' {α : Type*} [LE α] [BoundedOrder α] [Nontrivial α]
```
Comment (eric-wieser) [inline Mathlib/Order/Atoms.lean]:
```suggestion
lemma IsSimpleOrder.of_forall_eq_top {α : Type*} [LE α] [BoundedOrder α] [Nontrivial α]
```
since probably we should have `of_forall_eq_bot` too

Comment (ocfnash) [reply Mathlib/Order/Atoms.lean]: Done (though I'm dubious about having `of_forall_eq_bot` since I claim `of_forall_eq_top` mostly exists for psychological reasons which are unlikely to apply to `of_forall_eq_bot`).

File: Mathlib/Algebra/Lie/Semisimple/Defs.lean (hunk 9 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Semisimple/Defs.lean:33]: Thanks for the review!

**Comment by ocfnash** [comment]
bors merge

**Comment by ocfnash** [comment]
Urgh, bors crashed; let's try again.

bors merge

**Comment by ocfnash** [comment]
Urgh, bors crashed _again_ *and* `lake build --no-build` in CI incorrectly failed 🫠 

bors merge

**Comment by ocfnash** [comment]
Another crash: I'll try one last time

bors merge

**Comment by bryangingechen** [comment]
Maybe it will work with an empty queue?
bors r+
